US07074819B2
To a stirred solution of ethyl 6,6,7,7,7-pentafluoro-3-oxoheptanoate (262 mg, 1 mmol) in anhydrous THF (4 ml), potassium tret-butoxide (112 mg, 1 mmol) was added as a solid and the mixture was stirred at room temperature for 30 min. Then to a solution of 8-iodo-1-octene (357 mg, 1.5 mmol) in anhydrous THF (1 ml) was added and the mixture was stirred at room temperature continued for 3 days. The mixture was concentrated, diluted with diethyl ether, washed with water, brine, dried over anhydrous sodium sulfate and concentrated in vacuum. Crude product was purified by flash chromatography on silica gel (hexane:ethyl acetate 10:1) to give ethyl 2-(4,4,5,5,5-pentafluoro-1-oxopentyl)-9-decenoate as a colorless oil. yield: 200 mg (54%).

reactant | ethyl 6,6,7,7,7-pentafluoro-3-oxoheptanoate | 1 mmol, 262 mg | FC(CCC(CC(=O)OCC)=O)(C(F)(F)F)F | C9H11F5O3
reactant | butoxide | 1 mmol, 112 mg | [O-]CCCC
reactant | 8-iodo-1-octene | 1.5 mmol, 357 mg | ICCCCCCC=C | C8H15I
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | potassium | [K] | K
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | ethyl 2-(4,4,5,5,5-pentafluoro-1-oxopentyl)-9-decenoate | FC(CCC(=O)C(C(=O)OCC)CCCCCCC=C)(C(F)(F)F)F | C17H25F5O3
